US07244542B2
In a 1 L three neck flask, equipped with an overhead mechanical stirrer, was added 45 g of methyltriphenylphosphonium bromide (0.126 mol) under nitrogen atmosphere. To this were added anhydrous 300 mL of THF and 16.02 g of potassium tert-butoxide (0.1428 mol). After 1 h of stirring, 20 g of 6-(1-ethoxy ethoxy)-2-naphthaldehyde (0.0819 mol), dissolved in 50 mL of THF, was added dropwise using a cannular and the reaction mixture was stirred overnight. After overnight stirring, deionized water (200 mL) was added with a syringe and the phases were separated. The aqueous phase was extracted with ether (2×100 mL) and the combined extracts were dried over MgSO4. After filtration and concentration, the crude product was purified by column chromatography (silica gel, hexane/CH2Cl2 40/60˜10/90) to yield 19.12 g of pure 6-(1-ethoxy ethoxy)-2-vinylnaphthalene (96%).

reactant | potassium tert-butoxide | 0.1428 mol, 16.02 g | CC(C)([O-])C.[K+]
reactant | 6-(1-ethoxy ethoxy)-2-naphthaldehyde | 0.0819 mol, 20 g | C(C)OC(C)OC=1C=C2C=CC(=CC2=CC1)C=O | C15H16O3
reactant | water | 200 mL | O | H2O
catalyst | methyltriphenylphosphonium bromide | 0.126 mol, 45 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 6-(1-ethoxy ethoxy)-2-vinylnaphthalene | 19.12 g, 96% | C(C)OC(C)OC=1C=C2C=CC(=CC2=CC1)C=C | C16H18O2
